US05098466
N-methoxycarbonyl-3-chloro-5-fluoroaniline (51.8 gms, 254M) is added to a mixture of hydrazine hydrate (125 ml) and isobutyl alcohol (160 ml). The mixture is heated to 100° for 10 hours under nitrogen. The solution is cooled to room temperature, diluted with water and filtered. The solid is rinsed with water (2×) and dried under vacuum to give 4-(3-chloro-5-fluorophenyl)semicarbazide as a white solid.

reactant | N-methoxycarbonyl-3-chloro-5-fluoroaniline | 254M, 51.8 gms | COC(=O)NC1=CC(=CC(=C1)F)Cl | C8H7ClFNO2
reactant | hydrazine hydrate | 125 ml | O.NN
reactant | isobutyl alcohol | 160 ml | C(C(C)C)O | C4H10O
solvent | water | O | H2O
product | 4-(3-chloro-5-fluorophenyl)semicarbazide | ClC=1C=C(C=C(C1)F)NC(NN)=O | C7H7ClFN3O
